US06329366B1
Methanesulfonyl chloride (1.05 ml, 1.56 g, 0.014 mol) was added to a solution of 3,4-dihydro-3,3-dimethyl-1-(2-hydroxyethyl)-6-methylthio-2(1H)-quinolinone (2.88 g, 0.011 mol) and triethylamine (2.27 ml, 1.64 g, 0.016 mol) in dichloromethane (50 ml) at 0° C. under nitrogen and the resultant mixture was stirred for 20 mins. Then the mixture was allowed to warm to room temperature and sirred for 20 hr. The reaction mixture was then washed with water (2×20 ml), dried (MgSO4), filtered and concentrated in vacuo. The residue was then dissolved in carbon tetrachloride (30 ml), filtered and the solvent was evaporated in vacuo to afford 1-(2-chloroethyl)-3,3-dimethyl-6-methylthio-2(1H)-quinolinone as an oil which solidified on standing.

reactant | Methanesulfonyl chloride | 0.014 mol, 1.05 ml, 1.56 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3,4-dihydro-3,3-dimethyl-1-(2-hydroxyethyl)-6-methylthio-2(1H)-quinolinone | 0.011 mol, 2.88 g | CC1(C(N(C2=CC=C(C=C2C1)SC)CCO)=O)C | C14H19NO2S
reactant | triethylamine | 0.016 mol, 2.27 ml, 1.64 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(2-chloroethyl)-3,3-dimethyl-6-methylthio-2(1H)-quinolinone | ClCCN1C(C(CC2=CC(=CC=C12)SC)(C)C)=O | C14H18ClNOS
